US08487108B2
To a suspension of (S)-tert-butyl 1-(tert-butyldimethylsilyloxy)-3-(2-oxopiperidin-1-yl)propan-2-ylcarbamate (370 mg, 0.96 mmol) in CH3CN (3 mL) was added TBAF (750 mg, 2.88 mmol). The reaction mixture was stirred for 1 h at 50-60° C. The reaction mixture was concentrated in vacuo and then EA was added. This solution was washed with brine, water and concentrated again to afford crude (S)-tert-butyl 1-hydroxy-3-(2-oxopiperidin-1-yl)propan-2-ylcarbamate (260 mg 100%), which was used in the next step without further purification.

reactant | (S)-tert-butyl 1-(tert-butyldimethylsilyloxy)-3-(2-oxopiperidin-1-yl)propan-2-ylcarbamate | 0.96 mmol, 370 mg | [Si](C)(C)(C(C)(C)C)OC[C@H](CN1C(CCCC1)=O)NC(OC(C)(C)C)=O | C19H38N2O4Si
reactant | TBAF | 2.88 mmol, 750 mg | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | CH3CN | 3 mL | CC#N | C2H3N
product | (S)-tert-butyl 1-hydroxy-3-(2-oxopiperidin-1-yl)propan-2-ylcarbamate | 260 mg, 100% | OC[C@H](CN1C(CCCC1)=O)NC(OC(C)(C)C)=O | C13H24N2O4
